US07230011B2
4-Nitrobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 31, using 4-nitrobenzenesulfonyl chloride (997 mg, 4.05 mmol) was added to a mixture of 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (777 mg, 3.4 mmol) in 0.2 N sodium hydroxide (18.6 mL, 3.7 mmol) and THF (20 mL) gave 1.4 g of an orange foam. The product was crystallized from ethyl acetate/hexanes to give 485 mg (35%) of an orange powder. The mother liquors were purified by flash chromatography (silica gel, 5%,7% 2M ammonia in methanol/methylene chloride) to give 800 mg (57%) of the title compound as yellow foam: Total yield was 92%: mp=171-172° C.; MS(m/e): 416 (M+1), 414 (M−1); Calculated for C20H21N3O5S: C, 57.82; H, 5.09; N, 10.11. Found: C, 57.35; H, 4.96; N, 9.88.

reactant | 4-nitrobenzenesulfonyl chloride | 4.05 mmol, 997 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 3.4 mmol, 777 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
reactant | sodium hydroxide | 3.7 mmol, 0.2 N, 18.6 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Nitrobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 1.4 g | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C20H21N3O5S
